US08133909B2
(S)—N-(3,4-Dimethyl-phenyl)-2-hydroxy-2-pyridin-3-yl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide
In analogy to example 7, (3,4-dimethyl-phenyl)-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-amine (250 mg, 0.85 mmol) and oxo-pyridin-3-yl-acetic acid (343 mg, 1.27 mmol, CAS 39684-37-2) were coupled together to afford the title compound (48 mg, 27%) as a colourless solid. MS m/e: 430.2 [M+H]+.

reactant | (3,4-dimethyl-phenyl)-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-amine | 0.85 mmol, 250 mg | CC=1C=C(C=CC1C)NCCC=1C=NC(=CC1)C(F)(F)F | C16H17F3N2
reactant | oxo-pyridin-3-yl-acetic acid | 1.27 mmol, 343 mg | O=C(C(=O)O)C=1C=NC=CC1 | C7H5NO3
product | (S)—N-(3,4-Dimethyl-phenyl)-2-hydroxy-2-pyridin-3-yl-N-[2-(6-trifluoromethyl-pyridin-3-yl)-ethyl]-acetamide | 48 mg, 27% | CC=1C=C(C=CC1C)N(C([C@H](C=1C=NC=CC1)O)=O)CCC=1C=NC(=CC1)C(F)(F)F | C23H22F3N3O2
